US08084606B2
Levorotatory (−)-[2-[4-[(4-chlorophenyl)-phenylmethyl]-1-piperazinyl]ethanol (100 gm) is dissolved in dimethylformamide (200 ml) and cooled to 10-15° C. Potassium hydroxide (44 gm) is added to the reaction mixture and maintained for 30 minutes. Sodium monochloroacetate (85 gm) is added to the reaction mixture and further maintained for 1 hour at 10-15° C. The temperature of the reaction mixture is then raised to 25° C. and maintained for 1 hour. The temperature of the reaction mixture is further raised to 35-38° C. and maintained for 3 hours. Water (1800 ml) is added to the reaction mixture and the pH of the reaction mixture is adjusted to 9.6-9.8 with hydrochloric acid. The reaction mixture is then washed five times with ethyl acetate (each time 400 ml) and the layers are separated. The pH of the aqueous layer is adjusted to 5-5.5 with hydrochloric acid and extracted with dichloromethane (400 ml) followed by two times with dichloromethane (each time 100 ml). The extracted dichloromethane layer is washed with water and solvent distilled off to afford 100 gm of levocetirizine as a residue, which is dissolved in acetone (1000 ml). Activated carbon (10 gm) is added, stirred and filtered. To the filtrate hydrochloric acid gas is passed till the pH of the reaction mass is 2. The reaction mass is refluxed for 30 minutes, cooled to 25-35° C. and filtered. The product is washed with acetone (100 ml) and dried to constant weight to obtain 105 gm of Levocetirizine dihydrochloride [M.R: 215-220° C.; [α]36525: +12.8 (c=1, water); Chiral Purity by HPLC: 99.8%].

reactant | 2-[4-[(4-chlorophenyl)-phenylmethyl]-1-piperazinyl]ethanol | 100 gm | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCO)C1=CC=CC=C1 | C19H23ClN2O
reactant | Potassium hydroxide | 44 gm | [OH-].[K+]
reactant | Sodium monochloroacetate | 85 gm | ClCC(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | Water | 1800 ml | O | H2O
product | levocetirizine | 100 gm | C=1C=CC(=CC1)[C@H](C=2C=CC(=CC2)Cl)N3CCN(CC3)CCOCC(=O)O | C21H25ClN2O3
